US06184236B2
A mixture of trans-[4-(4-benzyloxy-phenyl)-cyclohexyl]-(3-phenyl-propyl)-amine (200 mg, 0.5 mmol), Pd/C 10% (20 mg) and MeOH (20 ml) was hydrogenated at RT for 3 h. Removal of the catalyst and evaporation of the solvent left a residue which after trituration with ether gave trans-4-[4-(3-phenyl-propylamino)-cyclohexyl]-phenol (130 mg, 84%) as a white crystalline material. MS: m/e=310.3 (M+H+).

reactant | trans-[4-(4-benzyloxy-phenyl)-cyclohexyl]-(3-phenyl-propyl)-amine | 0.5 mmol, 200 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)NCCCC1=CC=CC=C1 | C28H33NO
catalyst | Pd/C | 20 mg | [Pd] | Pd
solvent | MeOH | 20 ml | CO | CH4O
product | trans-4-[4-(3-phenyl-propylamino)-cyclohexyl]-phenol | 130 mg, 84% | C1(=CC=CC=C1)CCCN[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O | C21H27NO
